US07442698B2
Isopropyl-[2-(4-nitrophenoxy)ethyl]amine
Deprotonation of DMSO (anhydrous, 5 mL) was effected with NaH (0.40 g, 60 wt % in mineral oil, 10 mmol) over 30 min at 40° C. with stirring under a nitrogen atmosphere. When 2-isopropylaminoethanol (1.15 mL, 10 mmol) was added to the solution of the DMSO anion at room temperature, some effervescence occurred. 4-Fluoronitrobenzene (1.06 mL, 10 mmol) was added after 10 min and the dark red solution was then stirred at room temperature for further 20 min. The reaction was diluted with dichloromethane (100 mL), washed with water (50 mL) and then extrected twice with 3M HCl (100 mL). The combined acidic extracts were washed once with dichloromethane (50 mL). Ethyl acetate (125 mL) was then added and the mixture was cooled to 6-8° C. before the aqueous layer was adjusted to pH 11 by gradual addition of 5M aq. NaOH (ca. 150 mL), with vigorous stirring. The organic layer was separated and washed twice with water (50 mL) dried over magnesium sulfate, and concentrated in vacuo at 35° C. to afford the title compound as a yellow oil. 1H NMR (400 MHz, CDCl3): 1.10 (6H, d, J 6.25), 2.88 (1H, m, J 6.25), 3.04 (2H, t, J 5.2), 4.16 (2H, t, J 5.2), 6.96 (2H, d, J 9.3), 8.18 (2H, d, J 9.3); MS: 225 Isopropyl-[2-(4-nitrophenoxy)ethyl]carbamic acid tert-butyl ester Isopropyl-[2-(4-nitrophenoxy)ethyl]amine (1.80 g, 8.05 mmol) was dissolved in 1,4-dioxane (containing 1% water, 20 mL) and cooled to 0-5° C. Di-tert-butyldicarbonate (1.76 g, 8.05 mmol) was added slowly with vigorous stirring. The reaction was stirred at 0° C. for 0.5 h, then at room temperature for 20 h. The solvent was removed in vacuo and the residue taken up into EtOAc. The organic layer was washed twice with water (25 mL), the aqueous washes are extracted back with EtOAc (25 mL). The combined organic extracts were washed twice with 0.3 M HCl (25 mL), then brine and are dried over sodium sulfate. The solvent was removed in vacuo to afford a yellow solid, which was recrystallised from hot n-hexane to give the crystalline title compound as fine, light-yellow needles. 1H NMR: (400 MHz, CDCl3): 1.06 (6H, d, J 6.8), 1.37 (9H, s), 3.90 (2H, bm, 2H), 4.06 (2H, bm), 4.26 (1H, bm), 6.86 (2H, d, J 9.0), 8.09 (2H, d, J 9.2). MS: 225 [M+H+-Boc]). Isopropyl-[2-(4-aminophenoxy)ethyl]carbamic acid tert-butyl ester A solution of isopropyl-[2-(4-aminophenoxy)ethyl]carbamic acid tert-butyl ester (2.09 g, 6.45 mmol) in ethanol/tetrahydrofuran (30 mL, 2:1) was reduced over palladium on carbon (10 wt %, 50% wet, 0.4 g) with hydrogen under atmospheric pressure at room temperature for 20 h. The catalyst was separated by filtration through celite. The solvent was removed in vacuo to afford the title compound as a red oil. 1H NMR: (400 MHz, CDCl3): 1.08 (6H, d, J 6.7), 1.39 (9H, s), 3.34 (2H, bm), 3.90 (2H, bm), 4.26 (1H, bm), 6.56 (2H, d, J 8.9), 6.67 (2H, d, J 8.9); MS: 195 [M+H+-Boc], 295 [M+H+].

reactant | Isopropyl-[2-(4-nitrophenoxy)ethyl]carbamic acid tert-butyl ester Isopropyl-[2-(4-nitrophenoxy)ethyl]amine | 8.05 mmol, 1.80 g | C(C)(C)NCCOC1=CC=C(C=C1)[N+](=O)[O-].C(C)(C)(C)OC(N(CCOC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O
reactant | Di-tert-butyldicarbonate | 8.05 mmol, 1.76 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Isopropyl-[2-(4-nitrophenoxy)ethyl]amine | C(C)(C)NCCOC1=CC=C(C=C1)[N+](=O)[O-] | C11H16N2O3
